US07557110B2
Synthesis of 2-{5,7-dichloro-6-methyl(pyrazolo[1,5-a]pyrimidin-3-yl)}-1,3-dioxane.
To 5,7-dichloro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbaldehyde (290 mg) in toluene (40 mL) was added pyridinium p-toluenesulfonate (60 mg) and propan-1,3-diol. The mixture was then heated under reflux for 2 h, with azeotropic removal of water. The solution was cooled and evaporated under reduced pressure. The residue was chromatographed on silica gel using ethyl acetate/petroleum ether ⅔ as eluent to give the title compound (310 mg) as a white solid; 1H-NMR (400 MHz, CDCl3) d(ppm): 8.32 (1H, s, 2-H), 5.97 (1H, s, CHO2R), 4.25 (2H, br dd, OCHeq), 4.05 (2H, br t, OCHax), 2.50 (3H, s, 6-Me), 2.25 (1H, m, CCHeqHC), 1.48 (1H, br d, CCHHaxC).

reactant | 5,7-dichloro-6-methylpyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 290 mg | ClC1=NC=2N(C(=C1C)Cl)N=CC2C=O | C8H5Cl2N3O
reactant | pyridinium p-toluenesulfonate | 60 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | propan-1,3-diol | C(CCO)O | C3H8O2
reactant | water | O | H2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 2-{5,7-dichloro-6-methyl(pyrazolo[1,5-a]pyrimidin-3-yl)}-1,3-dioxane | 310 mg | ClC1=NC=2N(C(=C1C)Cl)N=CC2C2OCCCO2 | C11H11Cl2N3O2
